Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right leg ischemia
 
Major Surgical or Invasive Procedure:
open revision of previous endovascular aortic repair graft

 
History of Present Illness:
___  male who had an Excluder endovascular graft placed a number 
of years ago at an outside
hospital.  He has had a persistent endoleak, has attempted to 
fix it with coils, proximal and distal cuffs and relining the 
graft.  None of these were suitable and there was still a leak 
of what appeared to be most likely type 2.    At this point, the 
aneurysm was greater than 1 cm and really there was no other 
options other
than a translumbar approach which had not meant to be adequate 
for cessation of the leak.  The patient consented for a open 
revision of previous endovascular aortic repair graft understood 
the risks of bleeding, renal injury, bowel injury and death.
 
Past Medical History:
PMH: appendectomy, hemorrhoid, and lipoma  
PSH: EVAR with attempts to coil embolization  

 
Social History:
___
Family History:
n/c

 
Physical Exam:
 VS: P 58 BP 113/66 RR 17
GEN: WDWN  asian male, NAD
HEAD/NECK: Carotids are 2+ without bruit.
CV: RRR, no M/R/G
PULM: CTAB
Abd: Soft, NTND. No masses
Ext: R -/-/-  L d/-/-/d

 
Pertinent Results:
Hematology
                      WBCHgb  Hct Plt Ct
___  10.3   11.4*  33.3*118*

___  10.1   14.3 40.3 85*2

                        PTPTTPlt SmrPlt ___
___     118* 
___  10.831.1  1.0

___  14.6*37.3*  1.4*

Chemistry
                       Glu       UreaNCre   NaKClHCO3AnGap
___ ___    ___

___    ___    13

CXR (___)
IMPRESSION:  
 Lines and tubes in appropriate position. Interval increase in 
the pulmonary
bilateral vascular congestion, with new mild bilateral pulmonary 
edema.

 
Brief Hospital Course:
Patient was admitted to the vascular surgery service. He  
underwent a  Explant of aorta bi-iliac Gore excluder stent 
graft, An 18 x 9 mm bifurcated aorta bi-iliac Dacron graft and  
Ligation of lumbar bleeders and superior mesenteric artery. 
Please refer to the operative note for more details.  Operation 
was performed by Dr. ___ Dr. ___. The operation 
was without complications and patient tolerated the procedure 
well. Postoperatively patient was transferred to the ICU in a 
stable condition, intubated and an NGT in addition to general 
lines. He was extubated on POD1 without event. He remained 
hemodynamically stable throughout his stay in the ICU and 
continued to improve. His NGT was discontinued on POD3 and he 
was advanced to clear liquid diet by the time he transferred 
down to the floor. By POD4, patient had minimum pain, was 
tolerating a regular diet, voiding without difficulty. He 
received ___ eval and treatment where he received a walker for 
assist with home physical therapy arrangements. Patient is to 
follow up with Dr. ___ in his clinic as shown in his 
discharge instructions. 
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
RX *acetaminophen 650 mg 1 tablet extended release(s) by mouth 
q4-6h Disp #*30 Tablet Refills:*0
2. Amlodipine 10 mg PO DAILY 
3. Aspirin 325 mg PO DAILY 
4. Atenolol 50 mg PO DAILY 
5. Clopidogrel 75 mg PO DAILY 
6. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth q4-6hrs Disp #*30 
Tablet Refills:*0
7. Pravastatin 20 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
S/P Endovascular aortic repair with recurrent endoleak

 
Discharge Condition:
Post-op 
  Fever greater than 101
  Redness that is spreading
  Pain not adequately relieved with medication
  Drainage from wound
  Opening of incision
  Nausea and vomiting

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery
Abdominal Aortic Aneurysm (AAA) Surgery Discharge Instructions

WHAT TO EXPECT:

1. It is normal to feel weak and tired, this will last for ___ 
weeks 
•You should get up out of bed every day and gradually increase 
your activity each day 
•You may walk and you may go up and down stairs 
•Increase your activities as you can tolerate- do not do too 
much right away!

2. It is normal to have incisional and leg swelling:
•Wear loose fitting pants/clothing (this will be less 
irritating to incision) 
•Elevate your legs above the level of your heart with ___ 
pillows every ___ hours throughout the day and at night
•Avoid prolonged periods of standing or sitting without your 
legs elevated

3. It is normal to have a decreased appetite, your appetite will 
return with time 
•You will probably lose your taste for food and lose some 
weight 
•Eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication
•
•Take all the medications you were taking before surgery, 
unless otherwise directed
•Take one full strength (325mg) enteric coated aspirin daily, 
unless otherwise directed 

ACTIVITIES:
•No driving until post-op visit and you are no longer taking 
pain medications
•You should get up every day, get dressed and walk, gradually 
increasing your activity
•You may up and down stairs, go outside and/or ride in a car
•Increase your activities as you can tolerate- do not do too 
much right away!
•No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
•You may shower (let the soapy water run over incision, rinse 
and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area

CALL THE OFFICE FOR : ___
•Redness that extends away from your incision
•A sudden increase in pain that is not controlled with pain 
medication
•A sudden change in the ability to move or use your leg or the 
ability to feel your leg
•Temperature greater than 101.5F for 24 hours
•Bleeding from incision
•New or increased drainage from incision or white, yellow or 
green drainage from incisions

 
Followup Instructions:
___